US08471005B2
2-Methane sulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (125.0 mg, 0.0004350 mol), N,N-Diisopropylethylamine (0.114 mL, 0.000652 mol) and (S)-1-[4-(4-Amino-phenyl)-piperazin-1-yl]-propan-2-ol (0.205 g, 0.000870 mol) were dissolved in 2-Methoxyethanol (1.0 mL) and The reaction was microwaved on 300 watts, 180° C. for 40 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to provide 110.96 mg of (S)-1-(4-{4-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperazin-1-yl)-propan-2-ol as a lyophilized powder. (M+H)=459.20. 1H NMR (400 MHz, DMSO, d6) δ 9.22 (s, 1H), 8.92 (s, 1H), 7.82 (dd, 1H, J=1.44, 6.16 Hz), 7.61 (d, 2H, J=8.96 Hz), 7.43 (t, 1H, J=7.36 Hz), 6.90 (m, 4H), 4.11 (m, 2H), 3.80 (s, 3H), 3.60 (m, 3H), 3.18 (m, 3H), 3.03 (m, 3H), 1.14 (d, 3H, J=6.16 Hz).

reactant | 2-Methane sulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.0004350 mol, 125.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | N,N-Diisopropylethylamine | 0.000652 mol, 0.114 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-1-[4-(4-Amino-phenyl)-piperazin-1-yl]-propan-2-ol | 0.000870 mol, 0.205 g | NC1=CC=C(C=C1)N1CCN(CC1)C[C@H](C)O | C13H21N3O
solvent | 2-Methoxyethanol | 1.0 mL | COCCO | C3H8O2
product | (S)-1-(4-{4-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperazin-1-yl)-propan-2-ol | 110.96 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C[C@H](C)O | C26H30N6O2
